US04017492
In the manner given in Example 1, 2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine can be stirred with methyl pyruvate at room temperature to give 5-(o-chlorophenyl)-2-[[1-(methoxycarbonyl)ethylidene]-hydrazino]-3H-1,4-benzodiazepine.

reactant | 2-hydrazino-5-(o-chlorophenyl)-3H-1,4-benzodiazepine | N(N)C1=NC2=C(C(=NC1)C1=C(C=CC=C1)Cl)C=CC=C2 | C15H13ClN4
reactant | methyl pyruvate | C(C(=O)C)(=O)OC | C4H6O3
product | 5-(o-chlorophenyl)-2-[[1-(methoxycarbonyl)ethylidene]-hydrazino]-3H-1,4-benzodiazepine | ClC1=C(C=CC=C1)C1=NCC(=NC2=C1C=CC=C2)NN=C(C)C(=O)OC | C19H17ClN4O2
